US07501425B1
7-(3-Diethylamino-propylamino)-3-(3,5-dimethoxy-phenyl)-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one
Using the general procedure above, 3-(3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 0.1121 g (0.861 mmol) of diethylaminopropylamine were reacted. The residue was chromatographed eluting with acetonitrile/ethanol/triethylamine (8:1:0.5 v/v/v) to give 0.0476 g (40%) of the title compound: HPLC=89% pure.

reactant | 3-(3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | COC=1C=C(C=C(C1)OC)N1C(NC2=NC(=NC=C2C1)S(=O)C)=O | C15H16N4O4S
reactant | diethylaminopropylamine | 0.861 mmol, 0.1121 g | C(C)N(CC)CCCN | C7H18N2
product | 7-(3-Diethylamino-propylamino)-3-(3,5-dimethoxy-phenyl)-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.0476 g, 40% | C(C)N(CCCNC1=NC=C2C(=N1)NC(N(C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C21H30N6O3
